US04598079
3-(2-thienyl)-4-carbomethoxymethylpiperazin-2-one
18.2 g (0.1 mol) of 3-(2-thienyl)-piperazin-2-one, prepared in accordance with Example 16, are reacted with methyl chloroacetate and worked up, as described in Example 6.

reactant | 3-(2-thienyl)-piperazin-2-one | 0.1 mol, 18.2 g | S1C(=CC=C1)C1C(NCCN1)=O | C8H10N2OS
reactant | methyl chloroacetate | ClCC(=O)OC | C3H5ClO2
product | 3-(2-thienyl)-4-carbomethoxymethylpiperazin-2-one | S1C(=CC=C1)C1C(NCCN1CC(=O)OC)=O | C11H14N2O3S
